US04331668
(a)(i) A solution of aminoacetaldehyde diethylacetal (8 g, 0.06 mol) and 1-nitro-2,2-bis-methylthioethylene (10 g, 0.06 mol) in ethanol (100 ml) was refluxed for 20 hours. The solvent was removed in vacuo. The residue was chromatographed on a silica gel column eluted with carbon tetrachloride/chloroform (7:3) and the product was crystallised from propan-2-ol to give 1-nitro-2-metylthio-2-(2,2-diethoxyethylamino)ethylene (8.7 g, 58%) m.p. 73°-73.5°.

reactant | aminoacetaldehyde diethylacetal | 0.06 mol, 8 g | C(C)OC(CN)OCC | C6H15NO2
reactant | 1-nitro-2,2-bis-methylthioethylene | 0.06 mol, 10 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-nitro-2-metylthio-2-(2,2-diethoxyethylamino)ethylene | 8.7 g, 58% | [N+](=O)([O-])C=C(NCC(OCC)OCC)SC | C9H18N2O4S
